US04824958
3-Ethoxy-5-phenyl-2-thiophenecarboxylic acid.
A solution of methyl 3-ethoxy-5-phenyl-2-thiophenecarboxylate (12.0 g, 46 mmoles) in tetrahydrofuran (150 mL) is added to a solution of potassium hydroxide (14.6 g, 229 mmoles) in water (150 mL). The mixture is stirred and heated under reflux for 24 hours, then the tetrahydrofuran is removed using a rotary evaporator. The aqueous suspension is cooled in an ice bath and acidified with concentrated HCl. The precipitate is collected by filtration, rinsed well with water and dried to afford the pure product (10.6 g); mp 174°-175° C.

reactant | methyl 3-ethoxy-5-phenyl-2-thiophenecarboxylate | 46 mmoles, 12.0 g | C(C)OC1=C(SC(=C1)C1=CC=CC=C1)C(=O)OC | C14H14O3S
reactant | potassium hydroxide | 229 mmoles, 14.6 g | [OH-].[K+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 3-Ethoxy-5-phenyl-2-thiophenecarboxylic acid | 10.6 g | C(C)OC1=C(SC(=C1)C1=CC=CC=C1)C(=O)O | C13H12O3S
